US04968829
Following the above procedures, 1-trifluoromethylethyl methanesulfonate is reacted with 4-nitrophenol to give 4-(1trifluoromethylethoxy)phenol, which is then reacted with ethyl N-(2-chloroethyl)carbamate to give ethyl N-{2-[4-(1-trifluoromethylethoxy)phenoxy]ethyl}carbamate (compound 29, Table A).

reactant | 1-trifluoromethylethyl methanesulfonate | CS(=O)(=O)OC(C)C(F)(F)F | C4H7F3O3S
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | 4-(1trifluoromethylethoxy)phenol | FC(C(C)OC1=CC=C(C=C1)O)(F)F | C9H9F3O2
